US06949542B2
7-Dimethylamino-4-[3-(6-methyl-pyridazin-3-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (5-dimethylamino-2-{3-[3-(6-methyl-pyridazin-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M12) (301 mg, 0.54 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (189 mg).

reactant | (5-dimethylamino-2-{3-[3-(6-methyl-pyridazin-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.54 mmol, 301 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1N=NC(=CC1)C)=O)=O | C28H30F3N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Dimethylamino-4-[3-(6-methyl-pyridazin-3-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2N=NC(=CC2)C)=O)C=C1C(F)(F)F)C | C23H20F3N5O
